### PR TITLE
[Merged by Bors] - feat(RingTheory/FiniteType): generalize results to non-commutative generators

### PR DESCRIPTION
**Pull request by eric-wieser**
Many of the proofs in this file go via quotients of `MvPolynomial`; but this forces a commutativity assumption that can be avoided by instead going via quotients of `FreeAlgebra`.

Most of the new `FreeAlgebra` results are just copies of the proofs for `MvPolynomial`, which isn't ideal in terms of duplication.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/FreeAlgebra.lean [hunk 1]
```diff
@@ -573,4 +574,27 @@ theorem induction {C : FreeAlgebra R X → Prop}
   exact of_id a
 #align free_algebra.induction FreeAlgebra.induction
 
+@[simp]
+theorem adjoin_range_ι : Algebra.adjoin R (Set.range (ι R : X → FreeAlgebra R X)) = ⊤ := by
+  set S := Algebra.adjoin R (Set.range (ι R : X → FreeAlgebra R X))
+  refine top_unique fun x hx => ?_; clear hx
```
Comment (alexjbest) [inline Mathlib/Algebra/FreeAlgebra.lean:580]: Why do you need to clear hx here, out of curiosity?

Comment (eric-wieser) [reply Mathlib/Algebra/FreeAlgebra.lean:580]: I just copied this from the `MvPolynomial` proof (along with the rest of the proof)

**Review by ocfnash — COMMENTED** [review]
Thanks!

bors merge
